US07405219B2
N-(4-(5-Amino-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-ylmethyl)-2-methylphenyl)formamide (Example 244)
A mixture of ethyl 4-((5-amino-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-3-yl)methyl)-2-methylphenylcarbamate (318 mg, 0.81 mmol) and LiAlH4 (62 mg, 1.62 mmol) in dry THF (30 mL) was refluxed overnight, cooled to room temperature, treated with 13% aqueous NaOH solution (0.1 mL) then water (0.3 mL), stirred for 30 min, filtered through Celite and concentrated in vacuo. The resulting solid was triturated with THF and filtered to give the title compound (20 mg, 7%) as a yellow solid.

reactant | ethyl 4-((5-amino-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-3-yl)methyl)-2-methylphenylcarbamate | 0.81 mmol, 318 mg | NC=1N=C(C2=C(N1)N(N=N2)CC2=CC(=C(C=C2)NC(OCC)=O)C)C=2OC=CC2 | C19H19N7O3
reactant | LiAlH4 | 1.62 mmol, 62 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 0.1 mL | [OH-].[Na+]
reactant | water | 0.3 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(4-(5-Amino-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-ylmethyl)-2-methylphenyl)formamide | 20 mg, 7% | NC=1N=C(C2=C(N1)N(N=N2)CC2=CC(=C(C=C2)NC=O)C)C=2OC=CC2 | C17H15N7O2
